US08236952B2
In a dry 3-necked, round bottomed flask, equipped with a magnetic stirrer, a thermometer, a nitrogen inlet tube and the dropping funnel containing the orotoyl bromide solution, 9.84 g (75 mmol) of Isoleucine is suspended, with stirring, in 100 mL of dry DCM. To this suspension a catalytic amount (˜0.1 mmol) of DMAP is also added. The suspension is stirred in a dry ice and acetone bath to a temperature of about −15° C. When the target temperature is reached the drop wise addition of orotoyl bromide is commenced. Addition of orotoyl bromide continues, with constant cooling and stirring, until all of the orotoyl bromide is added, after which the reaction is allowed to warm to room temperature with constant agitation. The solution is then filtered to remove any remaining Isoleucine and the volatile DCM is removed from the filtrate under reduced pressure, the remainder is then purified by flash chromatography (ethyl acetate/hexanes; 1/5), yielding 2-(2,6-dioxo-1,2,3,6-tetrahydropyrimidine-4-carboxamido)-3-methylpentanoic acid.

reactant | orotoyl bromide | C(C1=CC(=O)NC(=O)N1)(=O)Br | C5H3BrN2O3
reactant | Isoleucine | 75 mmol, 9.84 g | N[C@@H]([C@@H](C)CC)C(=O)O | C6H13NO2
reactant | dry ice | C(=O)=O | CO2
reactant | acetone | CC(=O)C | C3H6O
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | ˜0.1 mmol | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-(2,6-dioxo-1,2,3,6-tetrahydropyrimidine-4-carboxamido)-3-methylpentanoic acid | O=C1NC(C=C(N1)C(=O)NC(C(=O)O)C(CC)C)=O | C11H15N3O5
